US04297516
Preparation of 7-Chloro-4-hydroxy-4-vinyl-1-heptyne
To a suspension of 3.0 g. (0.12 mol.) of magnesium metal in 10 ml. ether containing 100 mg. HgCl2 is added with stirring, under argon, 0.3 ml. of CH2CH2B2. After 5 minutes a reaction is initiated and 0.5 g. of 80% propargylbromide in toluene is added. Upon evidence of a vigorous reaction, an additional 25 ml. of ether is introduced. A mixture of 13 g. (0.1 mol) of 7-chlorohept-1-en-2-one and 19.5 g. (0.12 mol.) of propargylbromide in 35 ml. ether is added at such a rate to maintain a vigorous reflux. After addition is complete, stirring is continued 10 minutes. The mixture is cooled to 0° C. and satd. NH4Cl is added slowly. The mixture is filtered through diatomaceous earth and the ether is removed in vacuo to provide the title product as an oil.

reactant | magnesium | 0.12 mol | [Mg] | Mg
reactant | ether | 100 mg | CCOCC | C4H10O
reactant | propargylbromide | C(C#C)Br | C3H3Br
reactant | propargylbromide | 0.12 mol | C(C#C)Br | C3H3Br
reactant | NH4Cl | [NH4+].[Cl-]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | HgCl2 | Cl[Hg]Cl
product | 7-Chloro-4-hydroxy-4-vinyl-1-heptyne | ClCCCC(CC#C)(C=C)O | C9H13ClO
